US07166617B2
a) 4-Fluoro-2-methylbenzoic acid ethyl ester
Magnesium (0.644 g, 26.5 mmol) was added wit THF (4 mL) and a small amount of iodine. After the mixture was stirred, the mixture was added dropwise with a solution of 1-bromo-4-fluoro-2-methylbenzene (5.00 g, 26.5 mmol) in THF (50 mL). The mixture was stirred at room temperature for 30 minutes, and then cooled at −78° C. and added dropwise with a solution of ethyl chloroformate (3.80 mL, 39.8mmol) in THF (40 mL). The mixture was warmed slowly up to room temperature and stirring was continued at room temperature for 2 hours. The reaction mixture was diluted with ether and washed with water, saturated aqueous sodium bicarbonate solution, and then with saturated brine, and dried over sodium sulfate. The drying agent was removed by filtration and the filtrate was concentrated, and the resulting oily substance was purified by silica gel column chromatography (hexane/ether) to obtain the title compound (3.65 g, yield: 76%).

reactant | Magnesium | 26.5 mmol, 0.644 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1-bromo-4-fluoro-2-methylbenzene | 26.5 mmol, 5.00 g | BrC1=C(C=C(C=C1)F)C | C7H6BrF
reactant | ethyl chloroformate | 39.8mmol, 3.80 mL | ClC(=O)OCC | C3H5ClO2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 4-Fluoro-2-methylbenzoic acid ethyl ester | 3.65 g, yield: 76% | C(C)OC(C1=C(C=C(C=C1)F)C)=O | C10H11FO2
